US05665718
6.1 g (37.9 mmol) of 1,1'-carbonyldiimidazole were added portionwise to a suspension of 11 g (34.5 mmol) of (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid in 80 ml of dimethylformamide. The resulting pale brown solution was heated to 50° for 45 minutes. The solution was subsequently cooled to room temperature and 12 ml of aqueous ammonia solution were added dropwise. After stirring for a further 30 minutes the reaction mixture was poured into 150 ml of ice-water and extracted seven times with methylene chloride. Drying of the organic phases with sodium sulfate, filtration and evaporation yielded a colourless residue which was triturated with methylene chloride. After drying in a high vacuum there were obtained 9.8 g of (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide m.p. 221°-224°.

reactant | 1,1'-carbonyldiimidazole | 37.9 mmol, 6.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 34.5 mmol, 11 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CCC3)=O)C1F | C15H11F2N3O3
reactant | ammonia | 12 ml | N | H3N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide | 9.8 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)N)CCC3)=O)C1F | C15H12F2N4O2
